US06476038B1
F. 5-Amino-4-(4-chloro-2,6-dimethylphenyl)-3-methylpyrazole
Dissolve anhydrous hydrazine (0.91 g, 0.90 mL) in 20 mL toluene. Add glacial acetic acid (2.25 mL) and allow to stand at ambient temperature for 10 min until solution becomes cloudy white. Add a solution of 2-(4-chloro-2,6-dimethylphenyl)-3-oxobutanenitrile in 10 toluene, rinsing out the ketonitrile flask with an additional 5 mL toluene. Heat to reflux under N2 (130° C.) with Dean-Stark trap attached. Water will begin to accumulate after 10 min or so. After 2 h, evaporate down and partition between 1.0 N NaOH (100 mL) and EtOAc (100 mL). Extract aqueous layer with EtOAc (2×100 mL), then pool the organic layers and dry over Na2SO4. Filter and evaporate to yellow oil (1.75 g). Use without further purification. LCMS=236.5 (MH+); 234.5 (M−).

reactant | hydrazine | 0.90 mL, 0.91 g | NN | H4N2
reactant | acetic acid | 2.25 mL | C(C)(=O)O | C2H4O2
reactant | 2-(4-chloro-2,6-dimethylphenyl)-3-oxobutanenitrile | ClC1=CC(=C(C(=C1)C)C(C#N)C(C)=O)C | C12H12ClNO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Amino-4-(4-chloro-2,6-dimethylphenyl)-3-methylpyrazole | NC1=C(C(=NN1)C)C1=C(C=C(C=C1C)Cl)C | C12H14ClN3
